US04798893
3-Acetyl-3a, 7a-dihydro-7a-(phenylethynyl)benzofuran-2,5(3H,4H)dione (Formula (IV): R1, R2 =H and Ar1 =phenyl)
4-Hydroxy-4-(phenylethynyl)-2,5-cyclohexadien-1-one, the product of Example 2A, (10.5 g, 0.05 mole) was dissolved in dry THF (100 mL). The reaction was cooled to -30° C. and treated with 1.96M LDA in cyclohexane (25.5 mL, 0.05 mole). During the addition of the LDA solution, a beige-colored slurry formed. The reaction was cooled to -78° C. and stirred at that temperature for 40 min. Dry DMF (10 mL) was added. The reaction immediately became homogeneous. Diketene (6.3 mL, 0.08 mole) was added rapidly and the reaction was stirred for 20 min before an additional portion of diketene (4.0 mL 0.05 mole) was added. The stirred reaction was allowed to warm slowly to 0° C., then quenched into ice (300 g) and concentrated hydrochloric acid (45 mL). The resulting mixture was extracted with CH2Cl2. The combined extracts were washed with water, dried over anhydrous sodium sulfate overnight, filtered and concentrated. The resulting solution was concentrated in vacuo. The residue was treated with Et2O (300 mL) and cooled to 0° C. for 1 hr. The resulting solid was isolated by filtration and washed with Et2O to yield 7.8 g (53%) of the title compound as a light tan solid.

reactant | 4-Hydroxy-4-(phenylethynyl)-2,5-cyclohexadien-1-one | OC1(C=CC(C=C1)=O)C#CC1=CC=CC=C1 | C14H10O2
reactant | LDA | 1.96M | [Li+].CC(C)[N-]C(C)C
reactant | cyclohexane | 0.05 mole, 25.5 mL | C1CCCCC1 | C6H12
reactant | Diketene | 0.08 mole, 6.3 mL | C=C1CC(=O)O1 | C4H4O2
reactant | diketene | 0.05 mole, 4.0 mL | C=C1CC(=O)O1 | C4H4O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-Acetyl-3a, 7a-dihydro-7a-(phenylethynyl)benzofuran-2,5(3H,4H)dione | 7.8 g, 53% | C(C)(=O)C1C(OC2(C1CC(C=C2)=O)C#CC2=CC=CC=C2)=O | C18H14O4
